US05304553
1-Cyclopropanecarbonyl-4-piperidone
66 g of oxalic chloride was dissolved in 500 ml of dichloroethane, into which 61 g of dimethyl sulfoxide was gradually dropped at -67° C. 44 g of 1-cycloprpanecarbonyl-4-hydroxypiperidine dissolved in 200 ml of dichloromethane was dropped into the above solution at -67° C. At -67° C., 131 g of triethylamine was further added, followed by returning to room temperature. The resultant salt was removed by filtration and the filtrate was once concentrated, after which water was added to the concentrate, followed by extraction with ethyl acetate and drying with anhydrous magnesium sulfate. Moreover, the aqueous phase was extracted with chloroform and dried similarly. The solvent was distilled off under reduced pressure and the resultant reside was purified by the use of silica gel column chromatography (elution solvent: ethyl acetate:hexane=3:7), thereby obtaining 33 g of the intended compound (yield 76%).

reactant | oxalic chloride | 66 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 61 g | CS(=O)C | C2H6OS
reactant | triethylamine | 131 g | C(C)N(CC)CC | C6H15N
reactant | dichloroethane | 500 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-Cyclopropanecarbonyl-4-piperidone | 33 g, yield 76% | C1(CC1)C(=O)N1CCC(CC1)=O | C9H13NO2
